US05284838
c) 4-Amino-2-methoxypyridine
A mixture of 6.3 g of 2-methoxy-4-nitropyridine N-oxide and 12.6 g of iron powder in 150 ml of acetic acid is heated for 1 hour at 100° C. After cooling, sodium hydroxide is added, the mixture is then filtered and the material on the filter is washed with water. The aqueous phase is extracted with ethyl ether. After drying and concentration, 3.6 g of an oil are recovered which crystallizes to a white solid.

reactant | 2-methoxy-4-nitropyridine N-oxide | 6.3 g | COC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 12.6 g | [Fe] | Fe
product | 4-Amino-2-methoxypyridine | NC1=CC(=NC=C1)OC | C6H8N2O
